US07435815B2
3-Methyl-pyridine-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide
prepared by reaction of 6-methoxy-pyridin-3-ylamine with 3-methyl-pyridine-2-sulfonyl chloride

reactant | 6-methoxy-pyridin-3-ylamine | COC1=CC=C(C=N1)N | C6H8N2O
reactant | 3-methyl-pyridine-2-sulfonyl chloride | CC=1C(=NC=CC1)S(=O)(=O)Cl | C6H6ClNO2S
product | 3-Methyl-pyridine-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide | COC1=CC=C(C=N1)NS(=O)(=O)C1=NC=CC=C1C | C12H13N3O3S
